US07560551B2
To 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.100 g, 0.34 mmol) and 1,4-dichloro-5,8-difluorophthalazine (0.096 g, 0.41 mmol) was added tBuOH (1.0 mL). The resulting mixture was heated to 100° C. in a sealed tube for 45 min. The reaction was diluted with diethyl ether and the resulting solids were filtered and triturated with EtOAc. The solids were dried to yield 4-chloro-5,8-difluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine as a dark gray solid. MS m/z=492 [M+H]+. Calc'd for C24H16ClF2N7O: 491.89.

reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 0.34 mmol, 0.100 g | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H15N5O
reactant | 1,4-dichloro-5,8-difluorophthalazine | 0.41 mmol, 0.096 g | ClC1=NN=C(C2=C(C=CC(=C12)F)F)Cl | C8H2Cl2F2N2
reactant | tBuOH | 1.0 mL | CC(C)(C)O | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-chloro-5,8-difluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | ClC1=NN=C(C2=C(C=CC(=C12)F)F)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H16ClF2N7O
